US07163958B2
55a ((tert-Butyl)oxycarbonyl)methyl 2-(1-((4-chlorophenyl)carbonyl)-5-methoxy-2-methylindol-3-yl)acetate
To a solution of indomethacin (6.388 g, 18 mmol) in anhydrous DMF (45 mL) were successively added NaHCO3 (1.4 g, 16.7 mmol) and tert-butylbromoacetate (2.95 g, 15 mmol) at room temperature under nitrogen atmosphere. The reaction mixture was stirred at room temperature for 2 days. The reaction mixture was then poured over ice-cold water, stirred, and the white solid obtained was filtered off, washed with water and dried. The product was recrystallized from EtOAc:hexane (1:4) to give the title compound (7.06 g, 88% yield) as a white soild. Mp 96–97° C. 1H NMR (300 MHz, CDCl3) δ 7.66 (d, J=8.5 Hz, 2H), 7.45 (d, J=8.5 Hz, 2H), 7.0 (d, J=2.4 Hz, 1H), 6.88 (d, J=9.0 Hz, 1H), 6.6 (dd, J=9.0 and 2.4 Hz, 1H), 4.52 (s, 2H), 3.83 (s, 3H), 3.77 (s, 2H), 2.37 (s, 3H), 1.44 (s, 9H); 13C NMR (75 MHz, CDCl3) δ 170.1, 168.2, 166.6, 156.2, 139.2, 136.0, 133.8, 131.1 (2×C), 130.7, 130.5, 129.0 (2×C), 114.9, 112.1, 111.9, 101.1, 82.4, 61.5, 55.6, 29.7, 27.9, 13.4; LRMS (APIMS) m/z 472 (MH+).

reactant | indomethacin | 18 mmol, 6.388 g | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | C19H16ClNO4
reactant | NaHCO3 | 16.7 mmol, 1.4 g | C(=O)(O)[O-].[Na+]
reactant | tert-butylbromoacetate | 15 mmol, 2.95 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
product | ((tert-Butyl)oxycarbonyl)methyl 2-(1-((4-chlorophenyl)carbonyl)-5-methoxy-2-methylindol-3-yl)acetate | 7.06 g, 88% yield | ClC1=CC=C(C=C1)C(=O)N1C(=C(C2=CC(=CC=C12)OC)CC(=O)OCC(=O)OC(C)(C)C)C | C25H26ClNO6
